US07067506B2
1-(2-methoxy-5-nitrophenyl)-3-pyrazin-2-yl-urea
A mixture of 2-methoxy-5-nitrophenyl iso-cyanate (5.0 g, 25 mmol) and aminopyrazine (2.5 g, 26 mmol) in tetrahydrofuran (THF, 250 mL) was stirred at reflux for 24 hours. The product was precipitated from the cooled reaction mixture and was collected by filtration, washed with ethyl acetate, and dried in vacuo (4.3 g, 57%). 1H NMR (300 MHz, d6-DMSO) (mixture of rotamers) δ: 10.38 (br, s, 1H), 10.27 (s, 1H), 9.39, 8.88 (2 singlets, 1H), 9.10(d, 1H), 8.33 (s, 1H), 8.26 (d, 1H), 7.98-8.25 (m, 1H), 7.97-7.84 (m, 1H), 4.05, 4.03 (2 singlets, 77:28 ratio, 3H).

reactant | 2-methoxy-5-nitrophenyl iso-cyanate | 25 mmol, 5.0 g | COC1=C(C=C(C=C1)[N+](=O)[O-])N=C=O | C8H6N2O4
reactant | aminopyrazine | 26 mmol, 2.5 g | NC1=NC=CN=C1 | C4H5N3
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 1-(2-methoxy-5-nitrophenyl)-3-pyrazin-2-yl-urea | COC1=C(C=C(C=C1)[N+](=O)[O-])NC(=O)NC1=NC=CN=C1 | C12H11N5O4
